US05376681
3,5,6-Trimethyl-2-(2-methyl-2-propenyl)-4-phenylaminophenol
Titanium tetrachloride (2.58 ml, 23.4 mmol) was added dropwise to a solution of pyridine (7.60 ml, 93.6 mmol) in 1,2-dichloroethane (40 ml) and, after completion of the addition, the reaction mixture was heated under reflux for 30 minutes in an argon atmosphere. After cooling of the reaction mixture, a solution of 3,5,6-trimethyl-2-(2-methyl-2-propenyl)-1,4-benzoquinone (2.40 g, 11.7 mmol) and aniline (3.35 mi, 35.1 mmol) in 1,2-dichloroethane (5 ml) was added thereto and the mixture was stirred at 90° C. for 2 hours in an argon atmosphere. The reaction mixture was cooled and filtered through Cerite and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate, 98:2. The resulting compound was dissolved in tetrahydrofuran (10 ml) and to the solution was added a solution of sodium hydrosulfite (12 g, 69 mmol) in water (30 ml). The mixture was stirred at room temperature for 30 minutes. The organic phase was separated and the aqueous phase was extracted with ethyl acetate. The extract was combined with the organic phase and the mixture was washed with water and dried and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (hexane-ethyl acetate, 95:5) to obtain the desired compound as oil (1.41 g, yield: 42.8%).

reactant | pyridine | 93.6 mmol, 7.60 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,5,6-trimethyl-2-(2-methyl-2-propenyl)-1,4-benzoquinone | 11.7 mmol, 2.40 g | CC1=C(C(C(=C(C1=O)C)C)=O)CC(=C)C | C13H16O2
reactant | aniline | 35.1 mmol | NC1=CC=CC=C1 | C6H7N
reactant | sodium hydrosulfite | 69 mmol, 12 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | water | 30 ml | O | H2O
catalyst | Titanium tetrachloride | 23.4 mmol, 2.58 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 3,5,6-Trimethyl-2-(2-methyl-2-propenyl)-4-phenylaminophenol | 1.41 g, yield: 42.8% | CC=1C(=C(C(=C(C1NC1=CC=CC=C1)C)C)O)CC(=C)C | C19H23NO
